US03960847
9-[(o-Bromobenzyl)oxy]-4-oxo-4H-pyrido[1,2-α] pyrimidine-3-carboxylic Acid, Ethyl Ester
To a solution of 4.7 g of 9-hydroxy-4-oxo-4H-pyrido-[1,2-α] pyrimidine-3-carboxylic acid, ethyl ester, 7.2 g of o-bromobenzyl bromide, and 200 ml of ethyl methyl ketone is added 4.0 g of anhydrous potassium bicarbonate, and the mixture is stirred and heated under reflux for 18 hours. The cooled mixture is filtered and the filtrate is concentrated in vacuo to give a solid residue. This is recrystallized successively from 1:1 toluene-skellysolve and from 2-propanol to give about 6.9 g of the named product, m.p. about 164°-166°.

reactant | 9-hydroxy-4-oxo-4H-pyrido-[1,2-α] pyrimidine-3-carboxylic acid, ethyl ester | 4.7 g | OC1=CC=CN2C1=NC=C(C2=O)C(=O)OCC | C11H10N2O4
reactant | o-bromobenzyl bromide | 7.2 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | potassium bicarbonate | 4.0 g | C([O-])(O)=O.[K+]
solvent | ethyl methyl ketone | 200 ml | CC(=O)CC | C4H8O
product | 9-[(o-Bromobenzyl)oxy]-4-oxo-4H-pyrido[1,2-α] pyrimidine-3-carboxylic Acid, Ethyl Ester | about 6.9 g | BrC1=C(COC2=CC=CN3C2=NC=C(C3=O)C(=O)OCC)C=CC=C1 | C18H15BrN2O4
